US08486952B2
To a solution of 2-chloro-N-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (Preparation Ga) (150 mg, 0.578 mmol) in Dioxane (Ratio: 1, Volume: 1013 μl) was added 1-(4-amino-2-methoxyphenyl)-1H-imidazole-4-carbonitrile (Preparation AA) (124 mg, 0.578 mmol), and AcOH (Ratio: 1.000, Volume: 1013 μl). The resulting mixture was brought to 100° C. in a sealed vial and stirred overnight. The mixture was brought to pH 8 by the addition of 1 N aqueous sodium Hydroxide. The resulting mixture was extracted with EtOAc (3×1 mL). The combined extracts were dried over MgSO4, filtered and concentrated in vacuo. Purification by prep HPLC (Waters Sunfire C18, 50×250 mm, acetonitrile/H2O/ammonium acetate) gave 1-(2-methoxy-4-(4-(methylamino)-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-ylamino)phenyl)-1H-imidazole-4-carbonitrile (57 mg, 0.130 mmol, 22.56% yield). LC-MS (M+H)+=438.2. 1H NMR (500 MHz, MeOD) δ ppm 8.02-8.08 (2H, m), 7.90-7.94 (1H, m), 7.31 (2H, t, J=7.63 Hz), 7.16-7.24 (4H, m), 6.99 (1H, dd, J=8.55, 2.14 Hz), 4.18 (1H, t, J=8.09 Hz), 3.56 (3H, s), 3.07 (3H, s), 2.76-2.84 (1H, m), 2.59-2.74 (2H, m), 1.98-2.05 (1H, m). The racemic mixture was separated by chiral chromatography to afford the enantiomers Example 204A and 204B.

reactant | 2-chloro-N-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.578 mmol, 150 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)NC | C14H14ClN3
reactant | 1-(4-amino-2-methoxyphenyl)-1H-imidazole-4-carbonitrile | 0.578 mmol, 124 mg | NC1=CC(=C(C=C1)N1C=NC(=C1)C#N)OC | C11H10N4O
reactant | AcOH | 1013 μl | CC(=O)O | C2H4O2
reactant | sodium Hydroxide | 1 N | [OH-].[Na+]
solvent | Dioxane | 1013 μl | O1CCOCC1 | C4H8O2
product | 1-(2-methoxy-4-(4-(methylamino)-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-ylamino)phenyl)-1H-imidazole-4-carbonitrile | 0.130 mmol, 57 mg, 22.56% yield | COC1=C(C=CC(=C1)NC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)NC)N2C=NC(=C2)C#N | C25H23N7O
